US08748462B2
Butyl 4-bromo-3-(butyloxy)benzoate (T9.2)
To a flask containing 4-bromo-3-hydroxybenzoic acid (T9.1)(available from Combi-Blocks Inc.)(2.40 g, 11.06 mmol) and Cs2CO3 (8.287 g, 25.44 mmol) in DMF (40 mL), was added 1-bromobutane (2.494 mL, 23.22 mmol), and the mixture was stirred overnight. The reaction was diluted with water and extracted with EtOAc. The organic layers were washed with brine, dried over Na2SO4, filtered, concentrated, and then purified by CombiFlash® column chromatography (0 to 20% EtOAc/Hexanes) to provide T9.2 (2.4326 g, 66.81% yield).

reactant | 4-bromo-3-hydroxybenzoic acid | 11.06 mmol, 2.40 g | BrC1=C(C=C(C(=O)O)C=C1)O | C7H5BrO3
reactant | Cs2CO3 | 25.44 mmol, 8.287 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-bromobutane | 23.22 mmol, 2.494 mL | BrCCCC | C4H9Br
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Butyl 4-bromo-3-(butyloxy)benzoate | 66.81% yield | BrC1=C(C=C(C(=O)OCCCC)C=C1)OCCCC | C15H21BrO3
